US07868036B2
l) 7-Bromomethyl-1-(2-methoxyethoxy)naphthalene
0.198 ml of bromotrimethylsilane are added dropwise at room temperature to a solution of 0.23 g of [8-(2-methoxyethoxy)naphthalen-2-yl]methanol in 5 ml of chloroform. After 1 hour, the reaction mixture is concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F).

reactant | bromotrimethylsilane | 0.198 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | [8-(2-methoxyethoxy)naphthalen-2-yl]methanol | 0.23 g | COCCOC=1C=CC=C2C=CC(=CC12)CO | C14H16O3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromomethyl-1-(2-methoxyethoxy)naphthalene | BrCC1=CC=C2C=CC=C(C2=C1)OCCOC | C14H15BrO2
